US06528525B1
2-(4-Methylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 14-11 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-methylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (680 mg), which is the product of Example 114, was reacted with aqueous sodium hydroxide solution (1N, 2.60 ml) and the reaction mixture was treated to give the title compound (570 mg) as a white powder.

reactant | ethyl 2-(4-methylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 680 mg | CC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C32H32N2O5
reactant | sodium hydroxide | 1N, 2.60 ml | [OH-].[Na+]
product | 2-(4-Methylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 570 mg | CC1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C30H28N2O5
